US07985752B2
A mixture of 3-hydroxybenzaldehyde (5 mmol), 1-bromo-4-chlorobutane (5 mmol), and potassium carbonate (15 mmol) was refluxed in 100 ml of acetone for 6 h. This solution was then concentrated in a rotary evaporator and diluted with ethyl acetate, then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This was dissolved in methanol (50 ml) and was added with sodium borohydride (10 mmol) at 25° C., and was stirred at 25° C. for 2 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, then washed with brine, and the resulting organic layer was dried and concentrated in vacuo. The crude product was dissolved in isopropanol (50 ml) and was added with 1-(2-methoxyphenyl)-piperazine (5 mmol), sodium carbonate (15 mmol), and potassium iodide (5 mmol) at 25° C., and the reaction mixture was refluxed for 12 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, then washed with brine, and the resulting organic layer was dried and purified by column chromatography. This product was dissolved in CHCl3 (30 ml) and was added with pyridine and thionyl chloride (5 mmol) at 0° C., and then the resulting reaction mixture was stirred at room temperature for 16 h, and water was added to terminate the reaction. The organic layer was extracted 3 times with dichloromethane, then dried and concentrated in vacuo, and the residue was purified by column chromatography. This was dissolved in acetonitrile (30 ml) and was added with imidazole (6 mmol), potassium carbonate (15 mmol), and potassium iodide (5 mmol) at 25° C., and the reaction mixture was refluxed for 12 h. This solution was then concentrated in a rotary evaporator and diluted with methylene chloride, then washed with brine, and the resulting organic layer was dried and purified by column chromatography. The resulting 1-[4-(3-imidazole-1-ylmethyl-phenoxy)-butyl]-4-(2-methoxy-phenyl)-piperazine was dissolved in dichloromethane and the solution was treated with a solution of HCl in ethyl ether. The resulting precipitate was filtered to give 1-[4-(3-imidazol-1-ylmethyl-phenoxy)-butyl]-4-(2-methoxy-phenyl)-piperazine hydrochloride.

reactant | 3-hydroxybenzaldehyde | 5 mmol | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 1-bromo-4-chlorobutane | 5 mmol | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 10 mmol | [BH4-].[Na+]
reactant | 1-(2-methoxyphenyl)-piperazine | 5 mmol | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium carbonate | 15 mmol | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 5 mmol | [I-].[K+]
reactant | thionyl chloride | 5 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | imidazole | 6 mmol | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 15 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5 mmol | [I-].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[4-(3-imidazol-1-ylmethyl-phenoxy)-butyl]-4-(2-methoxy-phenyl)-piperazine hydrochloride | Cl.N1(C=NC=C1)CC=1C=C(OCCCCN2CCN(CC2)C2=C(C=CC=C2)OC)C=CC1 | InChI=1S/C25H32N4O2.ClH/c1-30-25-10-3-2-9-24(25)29-16-14-27(15-17-29)12-4-5-18-31-23-8-6-7-22(19-23)20-28-13-11-26-21-28;/h2-3,6-11,13,19,21H,4-5,12,14-18,20H2,1H3;1H
